US07135466B2
2-(2,4-Dichlorophenoxy)acetic acid (310 mg) was added to chloroform (5 ml), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (403 mg), 1-hydroxybenzotriazole monohydrate (284 mg), and 4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline (498 mg) were added thereto. The mixture was then stirred with heating under reflux for 2 hr. A saturated aqueous sodium hydrogencarbonate solution was added to stop the reaction, and the reaction solution was extracted with chloroform, followed by washing with a saturated aqueous sodium hydrogencarbonate solution, 1 N hydrochloric acid, water, and saturated brine. The extract was then dried over sodium sulfate. After the concentration of the extract, the residue was purified on a column using chloroform/methanol to give N1-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-2-(2,4-dichlorophenoxy)acetamide (500 mg, yield 72%).

reactant | 2-(2,4-Dichlorophenoxy)acetic acid | 310 mg | ClC1=C(OCC(=O)O)C=CC(=C1)Cl | C8H6Cl2O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 403 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 284 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline | 498 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C17H16N2O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | N1-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-2-(2,4-dichlorophenoxy)acetamide | 500 mg, yield 72% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(COC1=C(C=C(C=C1)Cl)Cl)=O | C25H20Cl2N2O5
